US09085555B2
A. Tert-butyl 2-(3-carbamoyl-1H-indazol-1-yl)acetate
To a suspension of 1H-indazole-3-carboxamide [90004-04-9] (2.00 g, 12.4 mmol) and potassium carbonate (4.12 g, 29.8 mmol) in CH3CN (60 mL) was added tert-butyl bromoacetate (2.20 mL, 14.9 mmol) dropwise at RT, and the resulting mixture was heated to reflux for 16 h. The mixture was then cooled to RT and filtered, the solid was washed with CH3CN and the filtrate was concentrated under vacuum. The residual oil was used directly in the next reaction step without further purification. MS (LC/MS): 276.0 [M+H]+; tR (HPLC conditions k): 3.22 min.

reactant | 1H-indazole-3-carboxamide | 12.4 mmol, 2.00 g | N1N=C(C2=CC=CC=C12)C(=O)N | C8H7N3O
reactant | potassium carbonate | 29.8 mmol, 4.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 14.9 mmol, 2.20 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | Tert-butyl 2-(3-carbamoyl-1H-indazol-1-yl)acetate | C(N)(=O)C1=NN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C14H17N3O3
